US08865623B2
A mixture of 9-(5-bromo-2-ethylphenyl)-3-oxaspiro[5.5]undecane-8,10-dione (360 mg, 0.99 mmol), 4-bromo-2-fluorophenol (227 mg, 1.19 mmol), cesium carbonate (645 mg, 1.98 mmol), copper(II) trifluoromethanesulfonate (18 mg, 0.05 mmol) and ethyl acetate (50 μl) in toluene (10 ml) is heated under reflux for 19 hours. The mixture is cooled to room temperature, N,N-dimethylformamide (2 ml) and 2M aqueous hydrochloric acid (10 ml) are added, and the mixture is stirred vigorously for 45 minutes. The mixture is extracted with ethyl acetate, and the organic extract is dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure. The residue is purified by preparative reverse phase HPLC to give 9-[5-(4-bromo-2-fluorophenoxy)-2-ethylphenyl]-3-oxaspiro[5.5]undecane-8,10-dione.

reactant | 9-(5-bromo-2-ethylphenyl)-3-oxaspiro[5.5]undecane-8,10-dione | 0.99 mmol, 360 mg | BrC=1C=CC(=C(C1)C1C(CC2(CCOCC2)CC1=O)=O)CC | C18H21BrO3
reactant | 4-bromo-2-fluorophenol | 1.19 mmol, 227 mg | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | cesium carbonate | 1.98 mmol, 645 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | 2M, 10 ml | Cl | ClH
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(II) trifluoromethanesulfonate | 0.05 mmol, 18 mg | FC(S(=O)(=O)[O-])(F)F.[Cu+2].FC(S(=O)(=O)[O-])(F)F
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 μl | C(C)(=O)OCC | C4H8O2
product | 9-[5-(4-bromo-2-fluorophenoxy)-2-ethylphenyl]-3-oxaspiro[5.5]undecane-8,10-dione | BrC1=CC(=C(OC=2C=CC(=C(C2)C2C(CC3(CCOCC3)CC2=O)=O)CC)C=C1)F | C24H24BrFO4
